US09023851B2
8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine
1.6 g (23.2 mmol) hydroxylamine hydrochloride are suspended in 20 ml of a 1:1 mixture of ethanol and methanol. Then 2.4 ml (13.9 mmol) DIPEA are added and the mixture is stirred at ambient temperature for 1 h. At that time, the reaction suspension is added to 2 g (4.6 mmol, 62% content) 1-(3-chloro-pyrazin-2-yl)-3-acetoxyethyl-urea and refluxed for 2 h. The reaction is cooled to room temperature filtered and washed with water. The product is isolated after drying in a vacuum oven (60° C.) (790 mg, 4.65 mmol, 100%); LCMS (method C): mass found (M+H+, 170), HPLC (method D) Rt (min): 2.14 area % 100 (220 nm); 1H NMR (400 MHz, DMSO-d6) δ [ppm] 8.83 (d, J=4.3, 1H), 7.92 (d, J=4.3, 1H), 6.77 (s, 2H).

reactant | hydroxylamine hydrochloride | 23.2 mmol, 1.6 g | Cl.NO
reactant | ethanol | C(C)O | C2H6O
reactant | DIPEA | 13.9 mmol, 2.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3-chloro-pyrazin-2-yl)-3-acetoxyethyl-urea | 4.6 mmol, 2 g | ClC=1C(=NC=CN1)NC(=O)NCCOC(C)=O | C9H11ClN4O3
solvent | methanol | CO | CH4O
product | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | ClC=1C=2N(C=CN1)N=C(N2)N | C5H4ClN5
